US07691888B2
b) Methyl (7-oxo-4,5,6,7-tetrahydrobenzothiazol-2-yl)carbamate
572 μl of methyl chloroformate (7.3 mmol) are added to a solution of 500 mg of 2-amino-5,6-dihydro-4H-benzothiazol-7-one (2.4 mmol) in 5 ml of pyridine. The reaction mixture is stirred at 50° C. for 15 h and then diluted with ethyl acetate; the mixture is then extracted by shaking, in each case 2×, with water and cold 1 N hydrochloric acid. The organic phase is dried and evaporated. Yield: 290 mg

reactant | methyl chloroformate | 7.3 mmol, 572 μl | ClC(=O)OC | C2H3ClO2
reactant | 2-amino-5,6-dihydro-4H-benzothiazol-7-one | 2.4 mmol, 500 mg | NC=1SC2=C(N1)CCCC2=O | C7H8N2OS
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl (7-oxo-4,5,6,7-tetrahydrobenzothiazol-2-yl)carbamate | O=C1CCCC=2N=C(SC21)NC(OC)=O | C9H10N2O3S
